US07777037B2
Step 2: Preparation of 5-(2-chloro acetyl)-6-chloro oxindole (Formula IV)
A mixture of 750 ml of dichloromethane, 150 g of 6-chlorooxindole, 161.6 g of chloroacetyl chloride and 477.2 g of aluminium chloride was refluxed for 9.5 hours. The reaction mass was quenched into a mixture of crushed ice and 135 ml of hydrochloric acid. The formed solid was filtered, and the wet compound was washed with water. The wet compound was dissolved in 3525 ml acetic acid by heating to 70 to 80° C., then carbon was added and the mixture was stirred briefly at the same temperature, and the carbon was removed by filtration and washed with 15 ml of acetic acid. The filtrate was allowed to cool to about 20° C. for solid formation. The solid was filtered, washed three times with 600 ml of water, and then dried to yield 148.5 g of the title compound.

reactant | 6-chlorooxindole | 150 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | chloroacetyl chloride | 161.6 g | ClCC(=O)Cl | C2H2Cl2O
reactant | aluminium chloride | 477.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 750 ml | ClCCl | CH2Cl2
product | 5-(2-chloro acetyl)-6-chloro oxindole | 148.5 g | ClCC(=O)C=1C=C2CC(NC2=CC1Cl)=O | C10H7Cl2NO2
